US04882326
3.7 g of 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethylthio]-2(S)-hydroxypropionic acid, in place of 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethoxy]-2(R)-hydroxypropionic acid, is subjected to the same reaction and treatment procedures as in Reference Example 9 to give 2.0 g of oily ethyl 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethylthio]-2(S)-hydroxypropionate.

reactant | 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethylthio]-2(S)-hydroxypropionic acid | 3.7 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCSC[C@H](C(=O)O)O | C18H25NO5S
reactant | 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethoxy]-2(R)-hydroxypropionic acid | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCOC[C@H](C(=O)O)O | C18H25NO6
product | ethyl 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethylthio]-2(S)-hydroxypropionate | 2.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCSC[C@H](C(=O)OCC)O | C20H29NO5S
